US07713976B2
5.19 g (17.4 mmol) of (4S,5R)-4-(5-bromo-pyrimidin-2-yloxy)-1-aza-bicyclo[3.3.1]nonane is dissolved in 200 ml toluene/EtOH 9:1. 5-Indolyl boronic acid (3.47 g, 21.6 mmol), Pd(PPh3)4 (1.04 g, 0.873 mmol) and a soln. of Na2CO3 (7.38 g, 69.6 mmol) in 35 ml H2O is added. The reaction mixture is stirred at 90° C. for 15 h. After cooling to rt the mixture is filtered over hyflo, the filtrate is extracted with water and brine. The aq. layers are reextracted with AcOEt and the combined organic layers are dried over Na2SO4, filtered and the filtrate is evaporated. The resulting crude product is purified by FC (255 g silica gel, eluent AcOEt/MeOH/Et3N 70:27:3) and recrystallization from EtOH to give 3.87 g (67%) (4S,5R)-4-[5-(1H-indol-5-yl)pyrimidin-2-yloxy]-1-aza-bicyclo[3.3.1]nonane. MS (ES+): m/e=335 (MH+), m.p. 195-199° C.

reactant | (4S,5R)-4-(5-bromo-pyrimidin-2-yloxy)-1-aza-bicyclo[3.3.1]nonane | 17.4 mmol, 5.19 g | BrC=1C=NC(=NC1)O[C@H]1CCN2CCC[C@@H]1C2 | C12H16BrN3O
reactant | 5-Indolyl boronic acid | 21.6 mmol, 3.47 g | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | Na2CO3 | 69.6 mmol, 7.38 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene EtOH | 200 ml | C1(=CC=CC=C1)C.CCO
solvent | H2O | 35 ml | O | H2O
catalyst | Pd(PPh3)4 | 0.873 mmol, 1.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4S,5R)-4-[5-(1H-indol-5-yl)pyrimidin-2-yloxy]-1-aza-bicyclo[3.3.1]nonane | 3.87 g, 67% | N1C=CC2=CC(=CC=C12)C=1C=NC(=NC1)O[C@H]1CCN2CCC[C@@H]1C2 | C20H22N4O
